US04800201
5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridazinyl]-2H-1,4-thiazin-3(4H)-one
2,2,2-Trichloroethylchloroformate (3.44 ml) was added dropwise to a solution of pyridazine (1.44 ml) in dry acetonitrile (40 ml) under ice-cooling, and the mixture was stirred for 10 minutes. 5-Methyl-2H-1,4-thiazin-3(4H)-one (1.29 g) was added to the mixture. The reaction mixture was further stirred at ambient temperature for 1 hour. Then, the solvent was removed under reduced pressure and the residue was extracted with chloroform. The extract was washed with 2N hydrochloric acid and successively with water, was dried over mangnesium sulfate and the solvent was removed. The residue was chromatographed on silica gel (Wakogel C-200) column, using ethyl acetate-n-hexane (=1:1) as an eluant to give the titled compound (2.4 g, yield 63%) as white crystals.

reactant | 2,2,2-Trichloroethylchloroformate | 3.44 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | pyridazine | 1.44 ml | N1=NC=CC=C1 | C4H4N2
reactant | 5-Methyl-2H-1,4-thiazin-3(4H)-one | 1.29 g | CC=1NC(CSC1)=O | C5H7NOS
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridazinyl]-2H-1,4-thiazin-3(4H)-one | 2.4 g, yield 63% | CC=1NC(CSC1C1C=NN(C=C1)C(=O)OCC(Cl)(Cl)Cl)=O | C12H12Cl3N3O3S
